US04837392
Starting from 8.28 g (22.6 mmol) of tris(4-chlorophenyl)phosphine and 5.7 g (40 mmol, 1.8 eq) of methyl iodide, 10.64 g (21.0 mmol, 92.8%) of methyltris(4-chlorophenyl)phosphonium iodide was obtained: mp>250° C.

reactant | tris(4-chlorophenyl)phosphine | 22.6 mmol, 8.28 g | ClC1=CC=C(C=C1)P(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | C18H12Cl3P
reactant | methyl iodide | 40 mmol, 5.7 g, 1.8 eq | CI | CH3I
product | methyltris(4-chlorophenyl)phosphonium iodide | 21.0 mmol, 10.64 g, 92.8% | [I-].C[P+](C1=CC=C(C=C1)Cl)(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | InChI=1S/C19H15Cl3P.HI/c1-23(17-8-2-14(20)3-9-17,18-10-4-15(21)5-11-18)19-12-6-16(22)7-13-19;/h2-13H,1H3;1H/q+1;/p-1
